US07338959B2
[4-(4-{[2-(4-Methoxy-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride
The title compound was prepared following the procedure of example two with N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (82 mg, 0.20 mmol) and (4-amino-phenyl)-methanesulfonamide (37 mg, 0.20 mmol) as a white solid (49 mg, 41%). 1H NMR (300 MHz, d6-DMSO) δ 9.58 (br s, 1H), 9.00 (br s, 1H), 7.85 (d, J=6.0 Hz, 1H), 7.68 (d, J=8.1 Hz, 2H), 7.42-7.50 (M, 3H), 7.29 (s, 1H), 7.12-7.21 (m, 3H), 6.91 (d, J=8.4 Hz, 2H), 6.80 (s, 2H), 5.75 (d, J=5.7 Hz, 1H), 4.64 (d, J=5.1 Hz, 2H), 4.17 (s, 2H), 3.73 (s, 3H), 3.68 (s, 3H), 3.46 (s, 3H). MS (ESI) m/z=559 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.20 mmol, 82 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)OC)C)C=C1)C | C21H21ClN6O
reactant | (4-amino-phenyl)-methanesulfonamide | 0.20 mmol, 37 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
product | [4-(4-{[2-(4-Methoxy-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride | Cl.COC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC3=CC=C(C=C3)CS(=O)(=O)N)C)C=C1 | InChI=1S/C28H30N8O3S.ClH/c1-35(26-14-15-30-27(34-26)32-21-8-4-20(5-9-21)18-40(29,37)38)22-10-13-25-24(16-22)33-28(36(25)2)31-17-19-6-11-23(39-3)12-7-19;/h4-16H,17-18H2,1-3H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
